US06300334B1
c) 6-[1-Hydroxy-1-(1-methyl-1H-benzimidazol-2-yl)methyl]-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione
Prepared from 3-Methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione and 2-formyl-1-methylbenzimidazole following the method of Example 1 step d.

reactant | 3-Methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione | CN1C(N(C2=C(C1=O)C=CS2)C(C)C)=O | C10H12N2O2S
reactant | 2-formyl-1-methylbenzimidazole | C(=O)C1=NC2=C(N1C)C=CC=C2 | C9H8N2O
product | 6-[1-Hydroxy-1-(1-methyl-1H-benzimidazol-2-yl)methyl]-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H, 3H)-dione | OC(C1=NC2=C(N1C)C=CC=C2)C2=CC1=C(N(C(N(C1=O)C)=O)C(C)C)S2 | C19H20N4O3S
